US05693635
To a slurry of 0.240 g (6.01 mmol) of sodium hydride (60% in oil) in 20 ml of N,N-dimethylformamide, chilled in an ice bath, is added 0.656 ml (6.01 mmol) of ethyl 2-mercaptoacetate. The mixture is stirred for 10 minutes and a slurry of 2.14 g (6.01 mmol) of 2,3-dihydro-5-chloro-1-(4-nitrobenzoyl)-1H-1-benzazepine-4-carboxaldehyde in 6 ml of N,N-dimethylformamide is added dropwise. The mixture is stirred at room temperature overnight and then concentrated under high vacuum. The residue is partitioned between chloroform and water and the organic layer separated. The aqueous layer is extracted (twice) with chloroform and the organic layer and extracts combined and dried (Na2SO4). The solvent is removed and the residue chromatographed on silica gel with dichloromethane as eluent (2 liter) and then with 4% ethyl acetate in dichloromethane as eluent. Fractions containing product are combined and the solvent removed under vacuum to give 2.1 g of ethyl 4,5-dihydro-6-(4-nitrobenzoyl)-6H-thieno[3,2-d][1]benzazepine-2-carboxylate as a yellow foam.

reactant | sodium hydride | 6.01 mmol, 0.240 g | [H-].[Na+]
reactant | ethyl 2-mercaptoacetate | 6.01 mmol, 0.656 ml | SCC(=O)OCC | C4H8O2S
reactant | 2,3-dihydro-5-chloro-1-(4-nitrobenzoyl)-1H-1-benzazepine-4-carboxaldehyde | 6.01 mmol, 2.14 g | ClC1=C(CCN(C2=C1C=CC=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=O | C18H13ClN2O4
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | ethyl 4,5-dihydro-6-(4-nitrobenzoyl)-6H-thieno[3,2-d][1]benzazepine-2-carboxylate | 2.1 g | [N+](=O)([O-])C1=CC=C(C(=O)N2CCC3=C(C4=C2C=CC=C4)SC(=C3)C(=O)OCC)C=C1 | C22H18N2O5S
